US07589232B2
Step a) Formation of N-(4-dec-1-ynylbenzyl)-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)acetamide
The title compound was prepared following the procedure E using 6-[(4-dec-1-ynylbenzyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one and acetyl chloride. HPLC, Rt: 5.8 min (purity: 99.9%).

reactant | 6-[(4-dec-1-ynylbenzyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | C(#CCCCCCCCC)C1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C27H33NO3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-(4-dec-1-ynylbenzyl)-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)acetamide | C(#CCCCCCCCC)C1=CC=C(CN(C(C)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C29H35NO4
